US05015647
α - Bromo - p - tolunitrile (5.41 g, 27.6 mmol) was added at once with stirring to a solution of 6-amino-1-methyluracil (V. Papesch and E.F. Schroeder. J. Org. Chem. (1951), 16, 1879) (3.90 g. 27.6 mmol) in 1:1 ethanol: 1 N sodium hydroxide (56 ml) at 42° C. After 1.75 hours. the mixture was cooled, filtered and washed with water. The resulting solid and second crop obtained by evaporation of the filtrate were combined (5.80 g) and partially purified by silica gel chromatography followed by repeated trituration with 1:2 methanol; ether to give crude 4-[(6-Amino-1,2,3,4-tetrahydro-1-methyl-2,4-dioxo-3-pyrimidinyl)methyl]benzonitrile (0.86 g), indentified by NMR.

reactant | Bromo - p - tolunitrile | 27.6 mmol, 5.41 g | BrC1=C(C=CC(=C1)C#N)C | C8H6BrN
reactant | 6-amino-1-methyluracil | 27.6 mmol, 3.90 g | NC1=CC(NC(N1C)=O)=O | C5H7N3O2
reactant | sodium hydroxide | 1 N, 56 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[(6-Amino-1,2,3,4-tetrahydro-1-methyl-2,4-dioxo-3-pyrimidinyl)methyl]benzonitrile | 0.86 g | NC1=CC(N(C(N1C)=O)CC1=CC=C(C#N)C=C1)=O | C13H12N4O2
